data/mechanism_extracts/OrgBiomolChem/10.1039_D5OB00874C.json
{"doi": "10.1039_D5OB00874C", "journal": "OrgBiomolChem", "is_review": false, "rxn_class_summary": "Electrochemical amidochlorination of alkenes with amides using DCE as the chlorine source to give 2-chloroalkylamines under undivided cell conditions", "mechanism_family": ["paired_electrolysis", "mediator_cathodic", "cation_initiated"], "electrochemical_role": "Cathodic reduction of DCE generates chloride anion (and ethylene) with concomitant H2 evolution; anodic oxidation of chloride to Cl2/Cl+ which chlorinates the alkene to a chloronium ion intermediate", "key_intermediates": [{"name": "chloride anion (from cathodic cleavage of DCE)", "smiles": "[Cl-]", "role": "reactive"}, {"name": "2-chloroethyl radical (transient from DCE single-electron reduction)", "smiles": "[CH2]CCl", "role": "transient"}, {"name": "molecular chlorine / Cl+ generated at anode", "smiles": "ClCl", "role": "reactive"}, {"name": "chloronium ion of styrene", "smiles": null, "role": "reactive"}, {"name": "2-chloroalkylamide product (3aa)", "smiles": null, "role": "reactive"}], "electron_flow": "At the cathode, DCE accepts electrons stepwise to release two chloride anions and ethylene while protons are reduced to H2; at the anode, chloride is oxidized (−2e−) to Cl2, which adds to the alkene to form a chloronium ion that is opened by the amide nitrogen to give the 2-chloroalkylamide.", "rate_determining_step": null, "probe_reagents": [{"name": "AgNO3 (chloride trapping)", "smiles": "[Ag+].[O-][N+](=O)[O-]", "purpose": "intermediate_trap", "observation": "White AgCl precipitate formed under standard conditions, confirming chloride anion is generated during electrolysis"}, {"name": "Cyclic voltammetry with DCE, styrene (1a), benzamide (2a), nBu4NCl", "smiles": null, "purpose": "redox_probe", "observation": "Chloride anion shows oxidation peak at ~1.5 V vs Ag/AgCl; styrene and benzamide show no oxidation; DCE shows reduction at ~−1.5 V vs Ag/AgCl, indicating chloride is easily oxidized at the anode and DCE easily reduced at the cathode"}, {"name": "Control without current", "smiles": null, "purpose": "other", "observation": "No product formed, confirming electrochemistry is essential"}, {"name": "Solvent switch to CH3CN or CH3OH", "smiles": null, "purpose": "other", "observation": "No product detected, supporting DCE as the chlorine source"}, {"name": "Air vs N2 atmosphere", "smiles": null, "purpose": "other", "observation": "Yield drops from 85% to 74% under air, indicating mild sensitivity to O2 but not radical-chain dependent"}, {"name": "Downstream cyclization with CH3COONa", "smiles": "CC(=O)[O-].[Na+]", "purpose": "other", "observation": "3aa converts to oxazolines 4a/5a (40%/40%), consistent with a 2-chloroalkylamide structure (also confirmed by X-ray of 3aba)"}], "evidence_types_used": ["cyclic_voltammetry", "intermediate_trap_other", "isolation_of_intermediate", "on/off_light_or_current"], "evidence_strength": "medium", "notes": "Authors favor an ionic (chloronium) pathway rather than a radical chain: anodic Cl− oxidation to Cl2 followed by alkene chloriranium formation and amide opening. The 1:1 regioisomeric ratio (3aaa:3aab) observed in optimization is consistent with attack on a symmetric/loose chloronium-like intermediate. DCE acts both as solvent and as sacrificial chlorine source via 2e− cathodic cleavage to 2 Cl− + ethylene."}
